US07037938B2
To a solution of 2,2,2-trifluoro-N-[2-[4-[(4-hydroxyphenyl)thio]phenyl]ethyl]acetamide (480 mg) in methanol (5.0 ml) was added 1N sodium hydroxide solution (2.8 ml). The mixture was refluxed for 12 hours. The mixture was evaporated under reduced pressure. The residue was dissolved in a mixture of dichloromethane (40 ml), 1N hydrochloric acid solution (2.0 ml) and water (15 ml). After separation, the organic layer was dried over magnesium sulfate and evaporated under reduced pressure to give 4-[[4-(2-aminoethyl)phenyl]thio]phenol (300 mg).

reactant | 2,2,2-trifluoro-N-[2-[4-[(4-hydroxyphenyl)thio]phenyl]ethyl]acetamide | 480 mg | FC(C(=O)NCCC1=CC=C(C=C1)SC1=CC=C(C=C1)O)(F)F | C16H14F3NO2S
reactant | sodium hydroxide | 1N, 2.8 ml | [OH-].[Na+]
solvent | methanol | 5.0 ml | CO | CH4O
product | 4-[[4-(2-aminoethyl)phenyl]thio]phenol | 300 mg | NCCC1=CC=C(C=C1)SC1=CC=C(C=C1)O | C14H15NOS
